US07612114B2
Synthesized from [4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)phenyl]methanone according to an analogous synthetic method to Example 337 described below, 1-{2-{4-[4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine (228 mg) was used according to an analogous synthetic method to Example 30 described below to provide 1-{2-{4-[4-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine (190 mg). This compound (188 mg) was used according to an analogous synthetic method to Example 364 described below to provide the title compound (104 mg).

reactant | [4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)phenyl]methanone | COC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=CC2=CC=C(C=C2CC1)OC | C32H35NO4
reactant | 1-{2-{4-[4-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine | 228 mg | COC1=CC(=C(CC2=CC=C(OCCN3CCCCC3)C=C2)C=C1)C1=CC2=CC=C(C=C2CC1)OC | C32H37NO3
product | 1-{2-{4-[4-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)benzyl]phenoxy}ethyl}piperidine | 190 mg | COC1=CC(=C(CC2=CC=C(OCCN3CCCCC3)C=C2)C=C1)C1CC2=CC=C(C=C2CC1)OC | C32H39NO3
